US06897207B2
4-(4-cyanophenyl)piperazine-1-carboxylic Acid, Tert-Butyl Ester
A mixture of 4-fluorobenzonitrile (3.6 g) and N-tert-butyloxycarbonylpiperazine (5.58 g) in acetonitrile (60 mL) was heated at 80° C. for 72 hours. The reaction mixture was then cooled to room temperature and then treated with a mixture of sodium bicarbonate solution and ethyl acetate (300 mL, 1:1, v/v). The organic phase was separated and then evaporated. The residue was subjected to chromatography on silica gel eluting with a mixtures of heptane and ethyl acetate (from 3:7 to 1:1, v/v) to give the title compound (2 g) as a white solid.

reactant | 4-fluorobenzonitrile | 3.6 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | N-tert-butyloxycarbonylpiperazine | 5.58 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 4-(4-cyanophenyl)piperazine-1-carboxylic Acid, Tert-Butyl Ester | 2 g | C(#N)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H21N3O2
